US04730006
To a mixture of 2,2-difluoro 4-pentene (9.8 g, 80 mmoles) and benzyl bromide (13.7 g, 80 mmoles) in dry tetrahydrofuran (100 ml), potassium t-butoxide (9.5 g, 85 mmoles) is added in portions over a period of 1 hour. The reaction mixture is kept overnight at room temperature, concentrated under reduced pressure, hydrolyzed with 1N HCl (pH approximately 2) and diluted with water and ether. Usual work-up gives 2,2-difluoro-1-benzyloxy-4-pentene as a colorless oil (16.8 g, , 99%, RF: 0.2, ethyl acetate/petroleum ether: 2/98).

reactant | 2,2-difluoro 4-pentene | 80 mmoles, 9.8 g | FC(C)(CC=C)F | C5H8F2
reactant | benzyl bromide | 80 mmoles, 13.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium t-butoxide | 85 mmoles, 9.5 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,2-difluoro-1-benzyloxy-4-pentene | FC(COCC1=CC=CC=C1)(CC=C)F | C12H14F2O
